US06653471B2
Di-tert-butyl dicarbonate (4.46 g, 20 mmol) is slowly added to a solution of triethylamine (2.84 mL, 20 mmol), 4-dimethylaminopyridine (414 mg, 3.4 mmol) and 4-oxo-1,4,5,6,7,8-hexahydro-cyclohepta[b]pyrrole-3-carboxylic acid ethyl ester (3.8 g, 17.04 mmol) in dichloromethane (100 mL). The reaction mixture is stirred at room temperature for 45 min. Saturated sodium bicarbonate solution (30 mL) is added, the layers are separated, and the aqueous phase is extracted with dichloromethane (4×30 mL). The combined organic layers are dried (Na2SO4) and evaporated. Flash chromatography on silica gel, eluting with hexanes: ethyl acetate (5:1), provides 4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (4.6 g 83%) as light yellow solid. 1H NMR (400 MHz, CDCl3) δ1.277 (3H, t), 1.568 (9H, s), 1.855 (4H, m), 2.744 (2H, m), 3.205 (2H, m), 4.229 (2H, q), 7.589 (1H, s). MS (ES+) 322 (M+1).

reactant | Di-tert-butyl dicarbonate | 20 mmol, 4.46 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 20 mmol, 2.84 mL | C(C)N(CC)CC | C6H15N
reactant | 4-oxo-1,4,5,6,7,8-hexahydro-cyclohepta[b]pyrrole-3-carboxylic acid ethyl ester | 17.04 mmol, 3.8 g | C(C)OC(=O)C=1C2=C(NC1)CCCCC2=O | C12H15NO3
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
catalyst | 4-dimethylaminopyridine | 3.4 mmol, 414 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 4.6 g, 83% | C(C)OC(=O)C=1C2=C(N(C1)C(=O)OC(C)(C)C)CCCCC2=O | C17H23NO5
